US07759376B2
Step 1. Preparation of methyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methylbiphenyl-4-carboxylate
As shown in Reaction Scheme 7, a mixture of methyl 4′-amino-3-methylbiphenyl-4-carboxylate (0.34 g, 1.40 mmol) and 2-chloro-6-fluoro-1,3-benzothiazole (0.26 g, 1.40 mmol) in n-butanol (4 mL) was heated to 60-70° C., and then 4N HCl in 1,4-dioxane (0.16 mL, 0.63 mmol) was added dropwise with stirring. The reaction mixture was heated at 90° C. for 18 h. Upon cooling to rt, the reaction mixture was concentrated in vacuo. The residue was triturated with ethanol and collected by filtration, yielding 0.32 g (58%) of the title compound as a pale yellow solid. LC/MS m/z 393.3 (MH+), retention time 4.02 min. 1H NMR (400 MHz, CD2Cl2) δ 2.62 (s, 3H), 3.95 (s, 3H), 7.05 (t, 1H), 7.39-7.60 (m, 4H), 7.65 (s, 4H), 7.96 (d, 1H).

reactant | methyl 4′-amino-3-methylbiphenyl-4-carboxylate | 1.40 mmol, 0.34 g | NC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)C | C15H15NO2
reactant | 2-chloro-6-fluoro-1,3-benzothiazole | 1.40 mmol, 0.26 g | ClC=1SC2=C(N1)C=CC(=C2)F | C7H3ClFNS
reactant | HCl | 4N | Cl | ClH
reactant | 1,4-dioxane | 0.63 mmol, 0.16 mL | O1CCOCC1 | C4H8O2
solvent | n-butanol | 4 mL | C(CCC)O | C4H10O
product | methyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methylbiphenyl-4-carboxylate | 0.32 g, 58% | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC(=C(C=C2)C(=O)OC)C)C=C1 | C22H17FN2O2S
